US09353107B2
Step-ii: tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)piperazine-1-carboxylate
Using similar reaction conditions as described in step-iii of example-1, tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy phenyl)piperazine-1-carboxylate (140 mg, 0.18 mmol) was hydrolyzed by lithium hydroxide (23 mg, 0.554 mmol), THF/Methanol/water (5/5/2 ml) to afford 70 mg of the titled compound. MS: m/z=610.9 (M+1).

reactant | tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxy phenyl)piperazine-1-carboxylate | 0.18 mmol, 140 mg | FC=1C=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C3=CC(=C(C=C3)N3CCN(CC3)C(=O)OC(C)(C)C)OC)S(=O)(=O)C3=CC=C(C)C=C3)C)C=CC1 | C42H45FN6O5S
reactant | lithium hydroxide | 0.554 mmol, 23 mg | [OH-].[Li+]
solvent | THF Methanol water | 2 ml | C1CCOC1.CO.O
product | tert-butyl 4-(4-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-methoxyphenyl)piperazine-1-carboxylate | 70 mg | FC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C3=CC(=C(C=C3)N3CCN(CC3)C(=O)OC(C)(C)C)OC)C)C=CC1 | C35H39FN6O3
